US08193228B2
DEAD (72 μL, 0.46 mmol) was added to an ambient temperature solution of 2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethanol (140 mg, 0.23 mmol), diphenylphosphoryl azide (0.1 mL, 0.46 mmol) and triphenylphosphine (150 mg, 0.57 mmol) in tetrahydrofuran (5 mL). After stirring at ambient temperature overnight, the reaction mixture was concentrated. Chromatography over silica eluting with 0-60% ethyl acetate/hexane afforded 2-(4-{1-azido-2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]ethyl}phenyl)-5-fluoropyridine.

reactant | DEAD | 0.46 mmol, 72 μL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethanol | 0.23 mmol, 140 mg | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(O)C1=CC=C(C=C1)C1=NC=C(C=C1)F)(CC)C | C41H40FN3O
reactant | diphenylphosphoryl azide | 0.46 mmol, 0.1 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triphenylphosphine | 0.57 mmol, 150 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-(4-{1-azido-2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]ethyl}phenyl)-5-fluoropyridine | N(=[N+]=[N-])C(CC=1N(C=C(N1)CC(CC)(C)C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=NC=C(C=C1)F | C41H39FN6
